US05389641
24a) 5-Bromo-4-(p-tolyl)pyrimidine
To a solution of 5-bromopyrimidine (15.9 g, 0.1 mmol) in ether (200 ml) was added a Grignard reagent (prepared from p-tolyl bromide (20.52 g, 0.12 mmol), magnesium (2.92 g, 0.1 mmol) and ether (100 ml) dropwise at room temperature during 10 minutes. After the addition, the resulting suspension was heated under reflux for 1 hour and allowed to stand overnight. The reaction mixture was treated with aqueous ammonium chloride and then the ether layers were collected. The aqueous layers were extracted with methylene chloride and the extracts were combined with the ether layers and concentrated to dryness. The residue was purified by column chromatography on silica gel and then dissolved in acetone (100 ml). To the acetone solution was added a solution of potassium permanganate in acetone until red color disappeared, manganese dioxide was removed from the reaction mixture by filtration. The filtrate was concentrated to dryness and the residue was purified by column chromatography on silica gel. Recrystallization from hexane afforded colorless needles (12.8 g, 51%), m.p. 81°-82° C.

reactant | 5-bromopyrimidine | 0.1 mmol, 15.9 g | BrC=1C=NC=NC1 | C4H3BrN2
reactant | p-tolyl bromide | 0.12 mmol, 20.52 g | C1(=CC=C(C=C1)Br)C | C7H7Br
reactant | magnesium | 0.1 mmol, 2.92 g | [Mg] | Mg
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ether | 200 ml | CCOCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
product | 5-Bromo-4-(p-tolyl)pyrimidine | BrC=1C(=NC=NC1)C1=CC=C(C=C1)C | C11H9BrN2
